US06951864B2
4-[2-(3-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-6-pyrazol-1-yl-pyrimidine
To a suspension of NaH (15 mg, 60% in mineral oil, 0.37 mmol) in anhydrous THF (4 mL), a solution of pyrazole (20 mg, 0.3 mmol) in THF (3 mL) is added dropwise. The mixture is stirred at room temperature for 20 minutes. To the mixture, a solution of 4-chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine (100 mg, 0.3 mmol) in THF (3 mL) is added. The mixture is stirred at room temperature overnight. The solvent is removed in vacuo. The residue is dissolved in DCM, and the mixture is washed with brine, dried over (MgSO4), filtered, and the solvent is evaporated. The residue is purified by preparative TLC with 10% MeOH/DCM to give the title compound. 1H-NMR (CDCl3) δ: 0.95 (t, 3H), 1.55-1.61 (m, 2H), 3.11 (t, 2H), 5.94 (s, 2H), 6.46-6.47 (m, 1H), 7.16 (s, 1H), 7.22 (s, 1H), 7.34 (s, 1H), 7.51 (t, 1H), 7.77 (d, 1H), 8.26 (s, 1H), 8.45 (d, 1H), 8.71 (s, 1H).

reactant | NaH | 0.37 mmol, 15 mg | [H-].[Na+]
reactant | pyrazole | 0.3 mmol, 20 mg | N1N=CC=C1 | C3H4N2
reactant | 4-chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-pyrimidine | 0.3 mmol, 100 mg | ClC1=NC=NC(=C1CCC)CN1C(=NC=C1)C1=NC=CC=C1F | C16H15ClFN5
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-[2-(3-Fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-5-propyl-6-pyrazol-1-yl-pyrimidine | FC=1C(=NC=CC1)C=1N(C=CN1)CC1=NC=NC(=C1CCC)N1N=CC=C1 | C19H18FN7
